US09023847B2
57. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-chloro-benzylamino)-ethyl]-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]-amide using 3-chlorobenzaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 426 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.50 (1H, br. s.) 10.43 (1H, s) 10.26 (1H, s) 7.94-8.11 (1H, m) 7.72-7.80 (1H, m) 7.37-7.52 (1H, m) 7.18-7.33 (1H, m) 7.05-7.14 (1H, m) 6.75-6.85 (1H, m) 6.36-6.44 (1H, m) 3.70 (2H, s) 3.31-3.38 (2H, m) 2.62 (2H, t, J=6.44 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]-amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-chloro-benzylamino)-ethyl]-amide | ClC=1C=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=CC1 | C21H20ClN5OS
